US07514566B2
3-Methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole
5-Bromo-3-methyl-1H-indazole (13.24 g, 62.75 mmol), bis(pinacolato)diboron (16.74 g, 65.89 mmol), potassium acetate (18.5 g, 188.25 mmol) and anhydrous 240 mL DMSO were charged into a 500 mL round bottom flask. After degassing the resulting reaction mixture with nitrogen for 15 minutes, 1, 1-[Bis(diphenylphosphino)ferrocene]-dichloropalladium(II) (2.56 g, 3.14 mmol) was added. The reaction was then heated to 86° C. under nitrogen. After stirring for 20 hours, the black reaction mixture was cooled to room temperature and slowly poured into 1.2 L of diethyl ether. The resulting mixture was transferred to a 2 L separation funnel, and the lower layer was discarded. The upper layer was washed with 1.0 M magnesium sulfate (500 mL×2) and brine solution, dried over sodium sulfate, and concentrated to dryness. The residue was subjected to a silica gel column chromatography purification with hexane-EtOAc (4:1) as the eluant to afford the desired compound 3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole (10.0 g, 61.7%) as a colorless solid. LCMS (API-ES) m/z (%): 259.2 (100%, M++H).

reactant | 5-Bromo-3-methyl-1H-indazole | 62.75 mmol, 13.24 g | BrC=1C=C2C(=NNC2=CC1)C | C8H7BrN2
reactant | bis(pinacolato)diboron | 65.89 mmol, 16.74 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 188.25 mmol, 18.5 g | C(C)(=O)[O-].[K+]
reactant | DMSO | 240 mL | CS(=O)C | C2H6OS
solvent | diethyl ether | 1.2 L | C(C)OCC | C4H10O
product | 3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole | 10.0 g, 61.7% | CC1=NNC2=CC=C(C=C12)B1OC(C(O1)(C)C)(C)C | C14H19BN2O2
